US08859732B2
The crude crystals (100 mg) of Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OBzl (2-MeO-4-OC12OC22) were added to a solution (2 ml) of trifluoroacetic acid:triisopropylsilane:water=95:2.5:2.5 under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and methyl tert-butyl ether (MTBE)/cyclohexane was added to the residue. The precipitate was washed at 40° C. and collected by filtration to give Fmoc-D-Lys-D-Lys-Leu-Leu-OH (29 mg).

reactant | Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OBzl | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C56H80N6O11
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triisopropylsilane | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
solvent | water | O | H2O
product | Fmoc-D-Lys-D-Lys-Leu-Leu-OH | 29 mg | N([C@H](CCCCN)C(=O)N[C@H](CCCCN)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H58N6O7
